US04692442
2-(4-acetylthio-3-methyl-2-oxoazetidin-1-yl)-2-triphenylphosphoranylideneacetic acid p-nitrobenzyl ester (racemic cis-trans mixture)
The crude 2-(4-acetylthio-3-methyl-2-oxoazetidin-1-yl)-2-chloroacetic acid p-nitrobenzyl ester obtained is dissolved in 12 ml of absolute dioxan, 1 g of poly-Hunig base is added and the mixture is stirred for 30 minutes, then 312 mg of triphenylphosphine are added and the mixture is stirred under nitrogen for 15 hours at 50°. The poly-Hunig base is filtered off, washed with dioxan and the filtrate and washing liquid are together concentrated by evaporation in vacuo. The residue is chromatographed over silica gel with toluene/ethyl acetate and yields a cis-trans mixture of the title compound having the following physico-chemical properties:

reactant | 2-(4-acetylthio-3-methyl-2-oxoazetidin-1-yl)-2-chloroacetic acid p-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(C(Cl)N2C(C(C2SC(C)=O)C)=O)=O)C=C1 | C15H15ClN2O6S
reactant | triphenylphosphine | 312 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dioxan | 12 ml | O1CCOCC1 | C4H8O2
product | 2-(4-acetylthio-3-methyl-2-oxoazetidin-1-yl)-2-triphenylphosphoranylideneacetic acid p-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(C(=P(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)N2C(C(C2SC(C)=O)C)=O)=O)C=C1 | C33H29N2O6PS
